US05558971
Synthesis of poly[p-(1-ethoxyethoxy)styrene/hydroxystyrene/p-methylstyrene]
A solution of poly(p-tert-butoxystyrene/p-methylstyrene) (70 g) obtained in above (1) and conc. hydrochloric acid (100 ml) in 1,4-dioxane was reacted for 4 hours at 70°-80° C. with stirring. After cooling, the reaction mixture was poured into H2O (5 l) and the polymer was precipitated. The polymer was filtered, washed with H2O and dried under reduced pressure to give 47.6 g of poly(p-hydroxystyrene/p-methylstyrene) as white powder. The polymer was found to have p-hydroxystyrene unit and p-methylstyrene unit in a molar ratio of ca. 95:5 based on 1HNMR. (3) To a solution of poly(p-hydroxystyrene/p-methylstyrene) (15.0 g) obtained in above (2) and ethyl vinyl ether (3.5 g) in 1,4-dioxane (150 ml), a catalytic amount of pyridinium p-toluenesulfonate was added and reacted with stirring at room temperature for 24 hours. The reaction mixture was poured into H2O (5 l) and the polymer was precipitated. The precipitate was filtered, washed with H2O and dried under reduced pressure to afford 11.5 g of poly[p-(1-ethoxyethoxy)styrene/p-hydroxystyrene/p-methylstyrene] as white powder having Mw 20000 (GPC with polystyrene calibration). The polymer was found to have p-(1-ethoxyethoxy)styrene unit, p-hydroxystyrene unit and p-methylstyrene unit in a molar ratio of ca. 35:60:5 based on 1HNMR.

reactant | p-(1-ethoxyethoxy)styrene | C(C)OC(C)OC1=CC=C(C=C)C=C1 | C12H16O2
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | p-methylstyrene | CC1=CC=C(C=C)C=C1 | C9H10
product | p-(1-ethoxyethoxy)styrene hydroxystyrene p-methylstyrene | C(C)OC(C)OC1=CC=C(C=C)C=C1.OC=CC1=CC=CC=C1.CC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C9H10.C8H8O/c1-4-11-6-8-12(9-7-11)14-10(3)13-5-2;1-3-9-6-4-8(2)5-7-9;9-7-6-8-4-2-1-3-5-8/h4,6-10H,1,5H2,2-3H3;3-7H,1H2,2H3;1-7,9H
